US07772256B2
2-(6-Methylamino-pyridin-3-yl)-benzofuran-5-ol
[5-(5-Methoxy-benzofuran-2-yl)-pyridin-2-yl]-methylamine (0.24 mmol) was mixed with CH2Cl2 (3 mL) at 0° C. under argon atmosphere. BBr3 (1M in CH2Cl2) (1.0 mL, 1.0 mmol) was added dropwise and the mixture was stirred for 2 h at rt. The mixture was hydrolysed with H2O followed by NaHCO3 (sat. aq.) solution. The resulting mixture was extracted with EtOAc and the organic extracts were dried over Na2SO4. After filtration and evaporation of the solvent, the crude material was purified by preparative HPLC to afford the title compound as a white solid (21 mg). 1H NMR δ ppm 9.10 (s, 1 H) 8.50 (d, 1 H) 7.81 (dd, 1 H) 7.32 (d, 1 H) 6.96 (s, 1 H) 6.81-6.94 (m, 2 H) 6.66 (dd, 1 H) 6.54 (d, 1 H) 2.82 (d, 3 H); MS m/z 241 (M+H).

reactant | [5-(5-Methoxy-benzofuran-2-yl)-pyridin-2-yl]-methylamine | 0.24 mmol | COC=1C=CC2=C(C=C(O2)C=2C=CC(=NC2)NC)C1 | C15H14N2O2
reactant | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
reactant | BBr3 | 1.0 mmol, 1M, 1.0 mL | B(Br)(Br)Br | BBr3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | H2O | O | H2O
product | 2-(6-Methylamino-pyridin-3-yl)-benzofuran-5-ol | 21 mg | CNC1=CC=C(C=N1)C=1OC2=C(C1)C=C(C=C2)O | C14H12N2O2
